US04644006
N-{2-[(2-Guanidinothiazol-4-yl)methylthio]ethyl}ethanediimidamide trihydrochloride
A suspension of 3-amino-4-{2-[(2-guanidinothiazol-4-yl)methylthio]ethylamino}-1,2,5-thiadiazole 1-oxide (5.25 g; 13.7 mmoles) [prepared according to published United Kingdom patent application No. 2,067,987] in 105 ml of methanol was treated with 80 ml of concentrated HCl to give an immediate yellow solution. After stirring at ambient temperature for 4.25 hours, the solution was concentrated to near dryness and the residue was triturated with acetone, filtered and dried to give the title compound.

reactant | 3-amino-4-{2-[(2-guanidinothiazol-4-yl)methylthio]ethylamino}-1,2,5-thiadiazole 1-oxide | 13.7 mmoles, 5.25 g | NC1=NS(N=C1NCCSCC=1N=C(SC1)NC(=N)N)=O | C9H14N8OS3
reactant | HCl | 80 ml | Cl | ClH
solvent | methanol | 105 ml | CO | CH4O
product | N-{2-[(2-Guanidinothiazol-4-yl)methylthio]ethyl}ethanediimidamide trihydrochloride | Cl.Cl.Cl.N(C(=N)N)C=1SC=C(N1)CSCCNC(C(N)=N)=N | InChI=1S/C9H16N8S2.3ClH/c10-6(11)7(12)15-1-2-18-3-5-4-19-9(16-5)17-8(13)14;;;/h4H,1-3H2,(H3,10,11)(H2,12,15)(H4,13,14,16,17);3*1H
